US06342644B1
A 500 ml capacity autoclave was charged with 150 g (1 mol) of piperitenone, 18.6 mg (0.04 mmol) of [Rh(cod)2]PF6, 47.2 mg (0.04 mmol) of (S)-DTBM-SEGPHOS, 14.8 mg (0.02 mmol) of BrPPh3(CH2)4PPh3Br and 7.5 ml of ethyl acetate, and the reaction was carried out at 50° C. for 20 hours under a hydrogen pressure of 3 Mpa. After completion of the reaction, hydrogen was purged, the reaction solution was concentrated and then distillation was carried out under a reduced pressure to obtain 136.8 g of pulegol. The yield was 90%.

reactant | piperitenone | 1 mol, 150 g | CC1=CC(=O)C(=C(C)C)CC1 | C10H14O
reactant | (S)-DTBM-SEGPHOS | 0.04 mmol, 47.2 mg | CC(C)(C)C1=CC(=CC(=C1OC)C(C)(C)C)P(C2=C(C3=C(C=C2)OCO3)C4=C(C=CC5=C4OCO5)P(C6=CC(=C(C(=C6)C(C)(C)C)OC)C(C)(C)C)C7=CC(=C(C(=C7)C(C)(C)C)OC)C(C)(C)C)C8=CC(=C(C(=C8)C(C)(C)C)OC)C(C)(C)C | C74H100O8P2
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 7.5 ml | C(C)(=O)OCC | C4H8O2
product | pulegol | 136.8 g, yield was 90% | CC1CCC(=C(C)C)C(C1)O | C10H18O
